US04925864
Preparation of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-pentafluoroethyl-1H-1,2,4-triazole
20.5 g (0.05 mol) of pentafluoropropionyl chloride 2,6-dichloro-4-trifluoromethylphenylhydrazone and 2.5 g (0.06 mol) of cyanamide were added to 50 ml of tetrahydrofuran, and 6.1 g (0.06 mol) of triethylamine was dropwise added thereto under reflux and stirring. After completion of the dropwise addition, the mixture was stirred at the same temperature for 1 hour to complete the reaction. After cooling, the reaction solution was poured into water, and the precipitate was extracted with ethyl acetate. The organic layer was washed with water and dried. Then, the solvent was distilled off under reduced pressure, and the residue was washed with n-hexane to obtain 12.5 g (yield: 60.1%) of the desired compound as white powder. Melting point: 181°-183° C.

reactant | pentafluoropropionyl chloride 2,6-dichloro-4-trifluoromethylphenylhydrazone | 0.05 mol, 20.5 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C(C(F)(F)F)(F)F)Cl | C10H3Cl3F8N2
reactant | cyanamide | 0.06 mol, 2.5 g | N#CN | CH2N2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 0.06 mol, 6.1 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-pentafluoroethyl-1H-1,2,4-triazole | 12.5 g, yield: 60.1% | NC1=NC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(C(F)(F)F)(F)F | C11H4Cl2F8N4
